US07977340B2
1-(7-Allyl-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea. [Example 156]
To a solution of 1-(7-bromo-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea (0.14 g, 0.37 mmol) in DMF (2 mL) was added tributylallyltin (0.15 g, 0.45 mmol) under nitrogen atmosphere at room temperature. The reaction mixture was then degassed for half an hour followed by the addition of tetrakis(triphenylphosphine)palladium(0) (0.043 g, 0.0371 mmol). The reaction mixture was then again degassed for half an hour and heated at 120° C. for 20 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), DMF was distilled off; water was added to the reaction mixture and extracted with ethyl acetate (×3). The combined organic layer was dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The crude residue was purified over silica gel (230-400 M) using EtOAc-MeOH (95:5) to provide the title compound as off white solid (0.034 g, 27%).

reactant | 1-(7-bromo-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea | 0.37 mmol, 0.14 g | BrC1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C15H13BrN4OS
reactant | tributylallyltin | 0.45 mmol, 0.15 g | C(CCC)C(C=C(CCCC)CCCC)[Sn]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0371 mmol, 0.043 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(7-Allyl-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea | C(C=C)C1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C18H18N4OS
